US07312358B2
N-{2-[(2E)-2-(2-aminobenzylidene)hydrazino]-2-oxoethyl}-4-ethoxy-N-(4-methylphenyl)benzenesulfonamide
4-ethoxy-N-(4-methylphenyl)-N-{2-[(2E)-2-(2-nitrobenzylidene)hydrazino]-2-oxoethyl}benzenesulfonamide (99 mg, 0.2 mmol) was dissolved in methylene chloride. Palladium 5% on charcoal was added (10 mol %). The mixture was stirred under H2 at athmospheric pressure at room temperature overnight. It was filtered on Celite and solvents were evaporated. The expected product, e.g. N-{2-[(2E)-2-(2-aminobenzylidene)hydrazino]-2-oxoethyl}-4-ethoxy-N-(4-methylphenyl)benzenesulfonamide (71.2 mg, 76%), was obtained as a light yellow solid, in 90.9% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 4-ethoxy-N-(4-methylphenyl)-N-{2-[(2E)-2-(2-nitrobenzylidene)hydrazino]-2-oxoethyl}benzenesulfonamide | 0.2 mmol, 99 mg | C(C)OC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N/N=C/C1=C(C=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)C | C24H24N4O6S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Palladium | [Pd] | Pd
product | N-{2-[(2E)-2-(2-aminobenzylidene)hydrazino]-2-oxoethyl}-4-ethoxy-N-(4-methylphenyl)benzenesulfonamide | 71.2 mg, 76% | NC1=C(\C=N\NC(CN(S(=O)(=O)C2=CC=C(C=C2)OCC)C2=CC=C(C=C2)C)=O)C=CC=C1 | C24H26N4O4S
